US08293925B2
LHMDS (1 M solution in THF, 6 mL, 6 mmol) was added slowly to a cooled (−50° C.) solution of 1-(2,6-dimethylphenyl)-3-ethyl-5-oxo-pyrrolidine-3-carboxylic acid methyl ester (prepared from step a, 1.1 g, 4 mmol) in THF (15 mL). The solution was stirred at −50° C. for 5 min then warmed to 0° C. and stirred for an additional 5 min. After cooling back to −50° C., (R,S)-camphorsulfonyloxaziridine (1.1 g, 4.8 mmol) was added and the resulting reaction mixture was warmed to room temperature and stirred for 2 h. Saturated aqueous NH4Cl solution (30 mL) was added, and the solution was extracted with EtOAc (3×75 mL). The combined organic layers were washed with water (50 mL), brine (50 mL), dried (Na2SO4) and concentrated under reduced pressure. The residue was purified by flash chromatography (SiO2, 30→70% EtOAc/hexanes) to give 1-(2,6-dimethyl-phenyl)-3-ethyl-4-hydroxy-5-oxo-pyrrolidine-3-carboxylic acid methyl ester (1.1 g, quantitative yield). LC-MS: Rt (retention time): 1.89 min, MS: (ES) m/z 292.1 (M+H+).

reactant | LHMDS | 6 mmol, 1 M, 6 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 1-(2,6-dimethylphenyl)-3-ethyl-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | COC(=O)C1(CN(C(C1)=O)C1=C(C=CC=C1C)C)CC | C16H21NO3
reactant | NH4Cl | 30 mL | [NH4+].[Cl-]
reactant | THF | 15 mL | C1CCOC1 | C4H8O
product | 1-(2,6-dimethyl-phenyl)-3-ethyl-4-hydroxy-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | 1.1 g, quantitative yield | COC(=O)C1(CN(C(C1O)=O)C1=C(C=CC=C1C)C)CC | C16H21NO4
